US04851160
2,4,5-Trifluoro-3-nitro-benzoic acid
3.5 g (0.02 mol) of 2,4,5-trifluorobenzoic acid are introduced into a mixture of 6.8 ml of concentrated sulphuric acid and 8 ml of 98% strength nitric acid at 5°-10° C., and the mixture is then stirred without cooling. The temperature increases to 70° C. The mixture is heated for 5 hours at 80°-90° C., a further 8 ml of 98% strength nitric acid are added, and the mixture is heated at 80° C. for 2 hours. The mixture is then introduced into 100 ml of ice water, extracted thoroughly with dichloromethane, dried using sodium sulphate and concentrated. The oil remaining crystallizes. If is stirred with light petroleum, and the solid product is filtered off under suction and dried.

reactant | 2,4,5-trifluorobenzoic acid | 0.02 mol, 3.5 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | sulphuric acid | 6.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2,4,5-Trifluoro-3-nitro-benzoic acid | FC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])F)F | C7H2F3NO4
